data/oMe_Silver.jsonl
{"reaction_id": "NR-226_1-C2CCCCC2_2-c2ccc(F)cc2_3-c2ccc(C(F)(F)F)cc2","level": "medium","name": "Polonovski-Potier Reaction","reactants_smiles": ["O=C(C(F)(F)F)OC(=O)C(F)(F)F","C1CCC[N+]([O-])(C(C2CCCCC2)(c2ccc(F)cc2)(c2ccc(C(F)(F)F)cc2))C1"],"products_smiles": ["C1CCC[N+](C(C2CCCCC2)(c2ccc(F)cc2)(c2ccc(C(F)(F)F)cc2))=C1"],"conditions": "TFAA","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCC[N+]([O]C([O-])(C(F)(F)F)OC(=O)C(F)(F)F)(C(C2CCCCC2)(c2ccc(F)cc2)(c2ccc(C(F)(F)F)cc2))C1","step_weight": 0,"rationale": "The N-oxide oxygen acts as a nucleophile toward the highly electrophilic carbonyl of TFAA, driven by strong electron withdrawal from CF3 groups, forming an activated intermediate."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCC[N+]([O]C(=O)C(F)(F)F)(C(C2CCCCC2)(c2ccc(F)cc2)(c2ccc(C(F)(F)F)cc2))C1","step_weight": 0,"rationale": "The trifluoroacetate anion is an excellent leaving group due to resonance and inductive stabilization by CF3, enabling elimination to form the iminium intermediate."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1CCC[N+](C(C2CCCCC2)(c2ccc(F)cc2)(c2ccc(C(F)(F)F)cc2))=C1","step_weight": 0,"rationale": "Base-assisted deprotonation adjacent to the iminium center is favored, as it restores conjugation and yields the thermodynamically stable alkene product."}],"description": "In the Polonovski-Potier reaction under TFAA activation, the N-oxide oxygen attacks the electrophilic anhydride, forming an activated intermediate. The trifluoroacetate group facilitates leaving group departure, generating an iminium species, which then undergoes deprotonation to yield the alkene product."}
{"reaction_id": "NR-033_1-C_2-C_3-C(F)(F)F_4-C(F)(F)F_5-I_6-C(C)C_7-C(C)(C)C","name": "Buchner Ring Expansion","level": "medium","reactants_smiles": ["N#[N+][CH-]C(=O)C","c1(C)c(C(F)(F)F)c(C(F)(F)F)c(I)c(C(C)C)c1(C(C)(C)C)"],"products_smiles": ["[CH](C(=O)C)1C(C)=C(C(F)(F)F)C(C(F)(F)F)=C(I)C(C(C)C)=C1C(C)(C)C"],"conditions": "heat/Metal","mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH]C(=O)C","step_weight": 0,"rationale": "Heating with metal catalyst promotes nitrogen extrusion from the diazo group, forming a carbene stabilized by adjacent carbonyl resonance."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)C)1C(C)2C(C(F)(F)F)=C(C(F)(F)F)C(I)=C(C(C)C)C2(C(C)(C)C)1","step_weight": 0,"rationale": "The electrophilic carbene adds to the electron-rich aromatic π-system, favored by carbene’s high reactivity and aromatic nucleophilicity."},{"step": 3,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "[CH](C(=O)C)1C(C)=C(C(F)(F)F)C(C(F)(F)F)=C(I)C(C(C)C)=C1C(C)(C)C","step_weight": 0,"rationale": "The strained bicyclic intermediate undergoes thermally allowed electrocyclic ring expansion to a more stable conjugated seven-membered ring."}],"description": "Under thermal and metal catalysis, the diazo ketone loses nitrogen to form a reactive carbene, which adds to the aromatic ring. The resulting bicyclic intermediate undergoes a pericyclic ring expansion, yielding the seven-membered ring product characteristic of the Buchner reaction."}
